US08247415B2
Step C: 6,7-Dihydro-5H-pyrrolo[1,2-d]tetrazole-5-carboxylic acid
To a solution of methyl 6,7-dihydro-5H-pyrrolo[1,2-d]tetrazole-5-carboxylate (300 mg, 1.78 mmol) in THF/water/MeOH was added LiOH (214 mg, 8.92 mmol) and the resulting solution was heated via oil bath to 60° C. for 16 h. (Round bottom was equipped with a condenser.) The solution was cooled to room temperature and concentrated to remove organic solvents. The aqueous layer was then acidified to pH of ˜5 using 2N HCl. The mixture was concentrated to dryness under vacuum, azeotroping with toluene (2×20 mL) to make sure all water was removed. The material was used without further purification with Lithium chloride as a by-product. LC-MS: m/z (ES)=155 (MH)+.

reactant | methyl 6,7-dihydro-5H-pyrrolo[1,2-d]tetrazole-5-carboxylate | 1.78 mmol, 300 mg | N=1N=NN2C1CCC2C(=O)OC | C6H8N4O2
reactant | LiOH | 8.92 mmol, 214 mg | [Li+].[OH-]
solvent | THF water MeOH | C1CCOC1.O.CO
product | 6,7-Dihydro-5H-pyrrolo[1,2-d]tetrazole-5-carboxylic acid | N=1N=NN2C1CCC2C(=O)O | C5H6N4O2
